US08541455B2
To a solution of 1.4 g (6.7 mmol) of tert-butyl [(1R,3S)-3-(hydroxymethyl)cyclopentyl]carbamate in 20 mL of anhydrous THF are added portionwise under argon, at room temperature, 0.27 g (6.7 mmol) of sodium hydride at 60% in oil. After stirring for 45 minutes, the medium is cooled to 0° C. and 0.8 mL (6.7 mmol) of benzyl bromide is added. After stirring for 1 hour at room temperature, the medium is hydrolysed with 30 mL of water and extracted with 2×100 mL of EtOAc, dried over Na2SO4, concentrated under reduced pressure and then purified by chromatography on a column of silica gel, eluting with a 99/1 DCM/MeOH mixture. 1.53 g of tert-butyl {(1R,3S)-3-[(benzyloxy)methyl]cyclopentyl}carbamate are obtained in the form of an oil.

reactant | tert-butyl [(1R,3S)-3-(hydroxymethyl)cyclopentyl]carbamate | 6.7 mmol, 1.4 g | OC[C@@H]1C[C@@H](CC1)NC(OC(C)(C)C)=O | C11H21NO3
reactant | sodium hydride | 6.7 mmol, 0.27 g | [H-].[Na+]
reactant | benzyl bromide | 6.7 mmol, 0.8 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 30 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-butyl {(1R,3S)-3-[(benzyloxy)methyl]cyclopentyl}carbamate | 1.53 g, Yield=75% | C(C1=CC=CC=C1)OC[C@@H]1C[C@@H](CC1)NC(OC(C)(C)C)=O | C18H27NO3
